US04032525
393 G. of 2-iodo-5-methyl-benzoic acid in 150 ml. of nitrobenzene are heated to 145° C. 138 G. of potassium carbonate are added thereto in small portions with stirring. Subsequently, 156 ml. of 4-methyl-phenol and 276 g. of potassium carbonate are added. To the resulting mixture, 3 g. of copper powder are carefully added, and the mixture is subsequently stirred at 165° C. for 20 minutes. After cooling, 1.25 liters of water are added to the mixture which is then extracted twice with ether. The aqueous phase is acidified with hydrochloric acid and extracted twice with ether. The ethereal solutions are washed with water, dried over sodium sulfate and concentrated in vacuo. The residue (brown crystals) is recrystallized from 1100 ml. of methanol and 700 ml. of water, and there is obtained 2-(4-methylphenoxy)-5-methyl-benzoic acid, which after repeated recrystallization from methanol/water, melts at 113°-115° C.

reactant | 2-iodo-5-methyl-benzoic acid | IC1=C(C(=O)O)C=C(C=C1)C | C8H7IO2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl-phenol | CC1=CC=C(C=C1)O | C7H8O
catalyst | copper | [Cu] | Cu
solvent | water | 1.25 liters | O | H2O
product | 2-(4-methylphenoxy)-5-methyl-benzoic acid | CC1=CC=C(OC2=C(C(=O)O)C=C(C=C2)C)C=C1 | C15H14O3
